US08486946B2
Step 1: Preparation of ethyl 2-diazo-3-(2-fluorophenyl)-3-oxopropanoate
Ethyl 3-(2-fluorophenyl)-3-oxopropanoate (1.00 g, 4.76 mmol) was dissolved in acetonitrile (14 mL) and treated with triethylamine (0.760 ml, 5.47 mmol, 1.15 equiv). The mixture was cooled to 0° C., treated with 4-acetamidobenzenesulfonylazide (1.26 g, 5.23 mmol, 1.1 equiv) and warmed to ambient temperature over 1.5 hours. The mixture was partially concentrated in vacuo, cooled to 0° C., treated with sodium hydroxide (50 mL, 1 N aqueous) and extracted with chloroform (3×50 mL). The combined organic extracts were dried with sodium sulfate, filtered and concentrated in vacuo. The residue was purified via silica gel gradient chromatography (100:0 to 85:15; hexanes:ethyl acetate) providing the titled compound as a yellow oil.

reactant | Ethyl 3-(2-fluorophenyl)-3-oxopropanoate | 4.76 mmol, 1.00 g | FC1=C(C=CC=C1)C(CC(=O)OCC)=O | C11H11FO3
reactant | triethylamine | 5.47 mmol, 0.760 ml, 1.15 equiv | C(C)N(CC)CC | C6H15N
reactant | 4-acetamidobenzenesulfonylazide | 5.23 mmol, 1.26 g, 1.1 equiv | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-] | C8H8N4O3S
solvent | acetonitrile | 14 mL | C(C)#N | C2H3N
product | ethyl 2-diazo-3-(2-fluorophenyl)-3-oxopropanoate | [N+](=[N-])=C(C(=O)OCC)C(=O)C1=C(C=CC=C1)F | C11H9FN2O3
